US07265120B2
N-bromosuccinimide (875 mg) was added to a solution of 6-(5-amino-3-phenyl-2-pyrazinyl)-2-isopropyl-3(2H)-pyridazinone (1.51 g) in DMF (15 ml). The mixture was stirred at 50-55° C. for one hour and poured into water (150 ml). The precipitate was collected by filtration, dissolved in CHCl3, dried over MgSO4 and concentrated under reduced pressure to give a solid. The solid was suspended in acetone and collected by filtration to give 6-(5-amino-6-bromo-3-phenyl-2-pyrazinyl)-2-isopropyl-3(2H)-pyridazinone as a solid (1.26 g).

reactant | N-bromosuccinimide | 875 mg | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | 6-(5-amino-3-phenyl-2-pyrazinyl)-2-isopropyl-3(2H)-pyridazinone | 1.51 g | NC=1N=C(C(=NC1)C=1C=CC(N(N1)C(C)C)=O)C1=CC=CC=C1 | C17H17N5O
reactant | water | 150 ml | O | H2O
solvent | DMF | 15 ml | CN(C)C=O | C3H7NO
solvent | acetone | CC(=O)C | C3H6O
product | 6-(5-amino-6-bromo-3-phenyl-2-pyrazinyl)-2-isopropyl-3(2H)-pyridazinone | 1.26 g | NC=1N=C(C(=NC1Br)C=1C=CC(N(N1)C(C)C)=O)C1=CC=CC=C1 | C17H16BrN5O
